US05852011
4-[N-Ethyl,N-(2-chloroethyl)amino]benzoic acid
To a solution of 2.5 g (12.0 mmol) of 4-[N-ethyl,N-(2-chloroethyl)amino]benzonitrile in 25 ml of ethanol, 25 ml of concentrated hydrochloric acid were added, followed by reflux under heat for 12 hours. The reaction mixture was allowed to cool down. Sodium carbonate was then added to basify the solution, followed by washing with chloroform. The water layer was acidified with concentrated hydrochloric acid and then extracted with chloroform. The solvent was distilled out under reduced pressure, followed by washing with IPA, whereby 1.1 g of white powder were obtained (yield: 40%).

reactant | 4-[N-ethyl,N-(2-chloroethyl)amino]benzonitrile | 12.0 mmol, 2.5 g | C(C)N(CCCl)C1=CC=C(C#N)C=C1 | C11H13ClN2
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 4-[N-Ethyl,N-(2-chloroethyl)amino]benzoic acid | 1.1 g, yield: 40% | C(C)N(CCCl)C1=CC=C(C(=O)O)C=C1 | C11H14ClNO2
